US07488740B2
3. 4,6-Dihydroxy-2-methoxymethyl-5-nitro-nicotinic acid methyl ester
4,6-Dihydroxy-2-methoxymethyl-nicotinic acid methyl ester (15.9 g, 74.75 mmol) is dissolved in AcOH (60 mL) and cooled to 0° C. in an ice bath. Nitric acid (70%, 4.73 mL) is added dropwise. The resulting solution is stirred at room temperature overnight. Water (200 mL) is added to the mixture and a white precipitate forms. The precipitate is collected and dried in a vacuum oven to afford the title compound as a white solid.

reactant | 4,6-Dihydroxy-2-methoxymethyl-nicotinic acid methyl ester | 74.75 mmol, 15.9 g | COC(C1=C(N=C(C=C1O)O)COC)=O | C9H11NO5
reactant | Nitric acid | 4.73 mL | [N+](=O)(O)[O-] | HNO3
reactant | Water | 200 mL | O | H2O
solvent | AcOH | 60 mL | CC(=O)O | C2H4O2
product | 4,6-Dihydroxy-2-methoxymethyl-5-nitro-nicotinic acid methyl ester | COC(C1=C(N=C(C(=C1O)[N+](=O)[O-])O)COC)=O | C9H10N2O7
